US07625888B2
Step B: 4-Hydrazino-2-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine
A mixture of 132 mg (0.6 mmol) of 4-chloro-2-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine, 0.0787 mL (2.4 mmol) of anhydrous hydrazine, and 3 mL of ethanol was stirred at reflux for 2 days. The cooled, filtered solution was concentrated, and the residue was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulfate, filtered and concentrated to yield the title compound. LC-MS 218 (M+1).

reactant | 4-chloro-2-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine | 0.6 mmol, 132 mg | ClC1=NC=CC2=C1N=C(N2)C(F)(F)F | C7H3ClF3N3
reactant | hydrazine | 2.4 mmol, 0.0787 mL | NN | H4N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-Hydrazino-2-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine | N(N)C1=NC=CC2=C1N=C(N2)C(F)(F)F | C7H6F3N5
